US07291635B2
A solution of the title B compound in Example 9, 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (742 mg, 2.59 mmol) and (4-hydroxymethyl-benzyl)-carbamic acid t-butyl ester (738 mg, 3.11 mmol) in THF (15 mL) is treated with triphenylphosphine (1.36 g, 5.18 mmol). The mixture is stirred for 10 min and diethyl azodicarboxylate (902 mg, 5.18 mmol) is added dropwise over 1 min. The mixture is stirred for 72 h. The solvent is evaporated and the residue is chromatographed on silica gel using 1% MeOH/CH2Cl2 as the eluent to afford {4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzyl}-carbamic acid t-butyl ester as a white solid: [M+NH4]+=523.

reactant | 2-(2,4-dimethoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 2.59 mmol, 742 mg | COC1=C(CN2S(NCC2=O)(=O)=O)C=CC(=C1)OC | C11H14N2O5S
reactant | (4-hydroxymethyl-benzyl)-carbamic acid t-butyl ester | 3.11 mmol, 738 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CO)=O | C13H19NO3
reactant | triphenylphosphine | 5.18 mmol, 1.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.18 mmol, 902 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | {4-[5-(2,4-dimethoxy-benzyl)-1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl]-benzyl}-carbamic acid t-butyl ester | C(C)(C)(C)OC(NCC1=CC=C(C=C1)CN1S(N(C(C1)=O)CC1=C(C=C(C=C1)OC)OC)(=O)=O)=O | C24H31N3O7S
